US05362878
N-(3-Methoxypyridin-2-yl)-2-(4-(1-methylpropyl)phenoxy)nonanoic amide
3-Methoxy-2-aminopyridine, prepared by reduction of the corresponding nitro compound according to Example 31, was coupled with 2-(4-(1-methylpropyl)phenoxynonanoic acid according to Example 25 to give the title compound.

reactant | 3-Methoxy-2-aminopyridine | COC=1C(=NC=CC1)N | C6H8N2O
reactant | 4-(1-methylpropyl)phenoxynonanoic acid | CC(CC)C1=CC=C(OC(C(=O)O)CCCCCCC)C=C1 | C19H30O3
product | N-(3-Methoxypyridin-2-yl)-2-(4-(1-methylpropyl)phenoxy)nonanoic amide | COC=1C(=NC=CC1)NC(C(CCCCCCC)OC1=CC=C(C=C1)C(CC)C)=O | C25H36N2O3
